US06376485B1
A1. 2-Acetamido-3-hydroxy-4-methoxybenzaldehyde
2-Amino-3-hydroxy-4-methoxybenzaldehyde (20.0 g, 0.12 mol) [M. Grossa, F. Wessely Monatsh. Chem. 1966, 97, 1384-1390] is dissolved at RT in a mixture of pyridine (250 ml) and acetic anhydride (250 ml). The solution is warmed to 60° C. and stirred for 1.5 h. The reaction solution is then poured onto a mixture of ice and half-concentrated aqueous NaCI solution (1:1), extracted with ethyl acetate (5 times), dried over MgSO4, filtered off and concentrated in vacuo. The title compound is obtained as a slightly yellow solid (12.5 g) after silica gel chromatography [petroleum ether/ethyl acetate (7:3)]. TLC, silica gel (glass plates), petroleum ether/ethyl acetate (7:3), Rf=0.23.

reactant | 2-Amino-3-hydroxy-4-methoxybenzaldehyde | 0.12 mol, 20.0 g | NC1=C(C=O)C=CC(=C1O)OC | C8H9NO3
reactant | acetic anhydride | 250 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
product | 2-Acetamido-3-hydroxy-4-methoxybenzaldehyde | C(C)(=O)NC1=C(C=O)C=CC(=C1O)OC | C10H11NO4
